US06353006B1
(1S)-1-(4-Chlorophenylmethyl)-2-hydroxyethylamine was made from (L)-4-chlorophenylalanine methyl ester as described in Method B1b. The 2-hydroxyethylamine was converted to (4S)-2-isopropyl-4-(4-chlorophenylmethyl)-1,3-oxazolidine according to Method B4c, Step 1. The oxazolidine was reduced to N-((1S)-1-(4-chlorophenylmethyl)-2-hydroxyethyl)-N-isobutylamine according to Method B4c, Step 2. The resulting 2-Hydroxyethylamine was treated with SOCl2 according to Method B7c to give N-((1S)-1-(4-chlorophenylmethyl)-2-chloroethyl)-N-isobutylammonium chloride. 2-Ethyl-4-cyanophenyl isothiocyanate was reacted with N-((1S)-1-(4-chlorophenylmethyl)-2-chloroethyl)-N isobutylammonium chloride according to Method C1b to give (4S)-2-(2-ethyl-4-cyanophenylimino)-4-(4-chlorophenylmethyl)-3-isobutyl-1,3-thiazolidine HCl salt.

reactant | 2-Ethyl-4-cyanophenyl isothiocyanate | C(C)C1=C(C=CC(=C1)C#N)N=C=S | C10H8N2S
reactant | N-((1S)-1-(4-chlorophenylmethyl)-2-chloroethyl)-N isobutylammonium chloride | [Cl-].ClC1=CC=C(C=C1)C[C@@H](CCl)[NH2+]CC(C)C
product | (4S)-2-(2-ethyl-4-cyanophenylimino)-4-(4-chlorophenylmethyl)-3-isobutyl-1,3-thiazolidine HCl salt | Cl.C(C)C1=C(C=CC(=C1)C#N)N=C1SC[C@@H](N1CC(C)C)CC1=CC=C(C=C1)Cl | InChI=1S/C23H26ClN3S.ClH/c1-4-19-11-18(13-25)7-10-22(19)26-23-27(14-16(2)3)21(15-28-23)12-17-5-8-20(24)9-6-17;/h5-11,16,21H,4,12,14-15H2,1-3H3;1H/t21-;/m0./s1
